US07125990B2
6-Chloro-2-methyl-7-(2,4,6-trimethyl-phenyl)-7H-imidazo[1,2-a]imidazole-3-carboxylic acid ethyl ester, Scheme 6: (AA)
A solution of 3-ethoxycarbonyl-2-methyl-6-oxo-7-(2,4,6-trimethyl-phenyl)-6,7-dihydro-5H-imidazo[1,2-a]imidazolium trifluoroacetate (22.2 mg, 0.050 mmol) in phosphorus oxychloride (1 mL) was heated at 150° C. for 48 h. The excess of phosphorus oxychloride was removed under reduced pressure, the residue was dissolved in saturated aqueous solution of sodium bicarbonate (20 mL) and extracted with ethyl acetate (5×20 mL). The combined organic extracts were dried with MgSO4. The solvent was removed under reduced pressure and the crude product was dried under pump vacuum overnight. Yield—23.3 mg (99%). LC/MS: tR=1.93 min., MS: [M+H]=346.

reactant | 3-ethoxycarbonyl-2-methyl-6-oxo-7-(2,4,6-trimethyl-phenyl)-6,7-dihydro-5H-imidazo[1,2-a]imidazolium trifluoroacetate | 0.050 mmol, 22.2 mg | FC(C(=O)[O-])(F)F.C(C)OC(=O)C1=C([NH+]=C2N1CC(N2C2=C(C=C(C=C2C)C)C)=O)C
reactant | phosphorus oxychloride | 1 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 6-Chloro-2-methyl-7-(2,4,6-trimethyl-phenyl)-7H-imidazo[1,2-a]imidazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N=C2N1C=C(N2C2=C(C=C(C=C2C)C)C)Cl)C | C18H20ClN3O2
